US07842696B2
Saturated HCl in 1,4-dioxane (1.0 ml) was added to a stirred solution of {2-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester (375 mg, 0.82 mmol) in 1,4-dioxane (1.0 mL) at room temperature and the resulting mixture was stirred for 15 minutes. The mixture was then concentrated and the product obtained was washed with diethyl ether to afford 2-amino-1-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-ethanone hydrochloride in 87.8% yield. LC-MS purity: 83.28%

reactant | HCl | Cl | ClH
reactant | {2-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 0.82 mmol, 375 mg | C(C)(C)(C)OC(NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)OC)Br)=O)=O | C19H26BrN3O5
solvent | 1,4-dioxane | 1.0 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 2-amino-1-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-ethanone hydrochloride | 87.8% yield | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)OC)Br)=O | InChI=1S/C14H18BrN3O3.ClH/c1-21-10-2-3-12(15)11(8-10)14(20)18-6-4-17(5-7-18)13(19)9-16;/h2-3,8H,4-7,9,16H2,1H3;1H
